US04665174
Into the same flask as used in Example 1, 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone (0.1 mol; 1 part), phenol (6 parts) and triethylamine (1/5 part) were charged and stirred at a temperature of 50° to 80° C. for 4 hours. The reaction mixture was treated in the same manner as in Example 25 to obtain 2-allyl-3-methyl-4-phenoxy-2-cyclopentenone. Yield, 95%. nD20 1.5539.

reactant | 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone | 0.1 mol | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-allyl-3-methyl-4-phenoxy-2-cyclopentenone | C(C=C)C=1C(CC(C1C)OC1=CC=CC=C1)=O | C15H16O2
